US06809110B2
In analogy to the procedure described in example 4 a], 4-chlorothiobenzamide was reacted with 1,3-dichloroacetone followed by treatment with concentrated sulfuric acid to obtain 4-chloromethyl-2-(4-chloro-phenyl)-thiazole as colorless crystals.

reactant | 4-chlorothiobenzamide | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-chloromethyl-2-(4-chloro-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
